US07638541B2
Step 2: 4-{4-[1-(4-Methanesulfonyl-phenoxy)-ethyl]-5-methyl-thiazol-2-yl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-[4-(1-Hydroxy-ethyl)-5-methyl-thiazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (0.15 g, 0.46 mmol), 4-methanesulfonyl-phenol (0.08 g, 0.46 mmol) and PPh3 (0.14 g, 0.55 mmol) in THF (5 mL) was added DEAD (0.1 g, 0.55 mmol) at room temperature. The resulting mixture was stirred at room temperature for 30 minutes. The solvent was removed. The residue was purified by flash chromatography on silica gel to afford the desired product. 1H NMR (CDCl3): δ 7.79 (2H, m), 6.94 (2H, m), 5.59 (1H, q, J=6 Hz), 4.2-4.04 (2H, m), 3.04-2.94 (1H, m), 2.98 (3H, s), 2.86-2.72 (2H, m), 2.39 (3H, s), 2.04-1.96 (2H, m), 1.67 (3H, d, J=6 Hz), 1.66-1.58 (2H, m), 1.42 (9H, s).

reactant | 4-[4-(1-Hydroxy-ethyl)-5-methyl-thiazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.46 mmol, 0.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC(=C(N1)C(C)O)C | C16H26N2O3S
reactant | 4-methanesulfonyl-phenol | 0.46 mmol, 0.08 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | PPh3 | 0.55 mmol, 0.14 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.55 mmol, 0.1 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-{4-[1-(4-Methanesulfonyl-phenoxy)-ethyl]-5-methyl-thiazol-2-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC(=C(N1)C(C)OC1=CC=C(C=C1)S(=O)(=O)C)C | C23H32N2O5S2
